US04159375
7-(p-Chlorophenyl)-3-methyl-1,2,4-triazolo[4,3-b]-1,2,4-triazine
A solution of 7.8 g. of p-chlorophenylglyoxal, 6.3 g. of 3,4-diamino-5-methyl-4H-1,2,4-triazole hydrochloride and 1.7 g. of sodium hydroxide in 90 ml. of 67% acetic acid is heated on a steam bath for 1/2 hour. Water is added and heating is continued until yellow crystals separate. These crystals are collected by filtration and washed with hot ethanol, giving the desired product as a yellow solid, m.p. 240° C. (dec.).

reactant | p-chlorophenylglyoxal | ClC1=CC=C(C=C1)C(=O)C=O | C8H5ClO2
reactant | 3,4-diamino-5-methyl-4H-1,2,4-triazole hydrochloride | Cl.NC1=NN=C(N1N)C
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | 7-(p-Chlorophenyl)-3-methyl-1,2,4-triazolo[4,3-b]-1,2,4-triazine | ClC1=CC=C(C=C1)C1=NC=2N(N=C1)C(=NN2)C | C11H8ClN5
